US05972935
4-(2-Dimethylaminoethyl)-6-nitro-2H-1,4-benzoxazin-3(4H)-one
To a suspension of 6-nitro-2H-1,4-benzoxazin-3(4H)-one (J. Med. Chem. 1989, 32, 1627-1630) (1 g, 5.7 mmol) in dry THF (20 ml) at 0° C. under argon, was added NaH (0.16 g, 5.7 mmol, 80% dispersion in mineral oil). A solution of 2-dimethylaminoethyl chloride (2.3 g, 20.8 mmol) in dry toluene (15 ml) was added and the reaction mixture heated under reflux for 19 hr. After cooling, water was added dropwise until effervescence had ceased, then the mixture was separated and the aqueous further extracted with EtOAc. The organic layers were combined, dried (Na2SO4) and evaporated under reduced pressure to give a pale brown solid (1.08 g, 79%).

reactant | 6-nitro-2H-1,4-benzoxazin-3(4H)-one | 5.7 mmol, 1 g | [N+](=O)([O-])C=1C=CC2=C(NC(CO2)=O)C1 | C8H6N2O4
reactant | NaH | 5.7 mmol, 0.16 g | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | 20.8 mmol, 2.3 g | CN(CCCl)C | C4H10ClN
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Dimethylaminoethyl)-6-nitro-2H-1,4-benzoxazin-3(4H)-one | 1.08 g, 79% | CN(CCN1C(COC2=C1C=C(C=C2)[N+](=O)[O-])=O)C | C12H15N3O4
